US08669361B2
Reaction of 5-chloro-1-cyclopropylmethyl-4-nitro-1H-pyrazole and tert-butyl piperidin-4-ylmethylcarbamate gave tert-butyl (1-(1-(cyclopropylmethyl)-4-nitro-1H-pyrazol-5-yl)piperidin-4-yl)methylcarbamate as a pale yellow gum (0.57 g, 95%). 1H NMR (400 MHz, CDCl3) δ 8.07-8.03 (m, 1H), 4.63 (s, 1H), 3.91 (d, J=7.1 Hz, 2H), 3.40-3.32 (m, 2H), 3.13-3.06 (m, 2H), 2.95 (d, J=11.5 Hz, 2H), 1.81 (d, J=12.9 Hz, 2H), 1.46 (s, 9H), 1.42-1.14 (m, 3H), 0.95-0.82 (m, 1H), 0.63-0.57 (m, 2H), 0.42-0.35 (m, 2H)

reactant | 5-chloro-1-cyclopropylmethyl-4-nitro-1H-pyrazole | ClC1=C(C=NN1CC1CC1)[N+](=O)[O-] | C7H8ClN3O2
reactant | tert-butyl piperidin-4-ylmethylcarbamate | N1CCC(CC1)CNC(OC(C)(C)C)=O | C11H22N2O2
product | tert-butyl (1-(1-(cyclopropylmethyl)-4-nitro-1H-pyrazol-5-yl)piperidin-4-yl)methylcarbamate | 0.57 g, 95% | C1(CC1)CN1N=CC(=C1N1CCC(CC1)CNC(OC(C)(C)C)=O)[N+](=O)[O-] | C18H29N5O4
